US04732912
n-Butyllithium (8.4 ml. of a 1.55 molar solution in hexane) was added to a solution of 6-tetrahydropyranyloxyhex-1-yne (2.25 g.) in tetrahydrofuran (25 ml.) at 10° C., the mixture was allowed to warm up to laboratory temperature and was stirred at that temperature for 30 minutes, and was then recooled to 10° C. A solution of 3,4-dihydro-6-methoxy-2-p-methoxyphenyl-2-methylnaphthalen-1(2H)-one (2.0 g.) in tetrahydrofuran (20 ml.) was added dropwise and the mixture was allowed to warm up to laboratory temperature and stirred at that temperature for 30 minutes. Saturated aqueous ammonium chloride solution (50 ml.) was added and the mixture was extracted with ethyl acetate. The extract was dried and evaporated to dryness and the residue was purified by chromatography on a silica gel column using a 3:1 v/v mixture of petroleum ether (b.p. 60°-80° C.) and ethyl acetate as eluant. The product was crystallised from ethanol and there was thus obtained, as a mixture of isomers, 6-methoxy-2-p-methoxyphenyl-2-methyl-1-(6-tetrahydropyranyloxyhex-1-ynyl)-1,2,3,4-tetrahydronaphth-1-ol, m.p. 80°-82° C.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 6-tetrahydropyranyloxyhex-1-yne | 2.25 g | O1C(CCCC1)OCCCCC#C | C11H18O2
reactant | 3,4-dihydro-6-methoxy-2-p-methoxyphenyl-2-methylnaphthalen-1(2H)-one | 2.0 g | COC=1C=C2CCC(C(C2=CC1)=O)(C)C1=CC=C(C=C1)OC | C19H20O3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-methoxy-2-p-methoxyphenyl-2-methyl-1-(6-tetrahydropyranyloxyhex-1-ynyl)-1,2,3,4-tetrahydronaphth-1-ol | COC=1C=C2CCC(C(C2=CC1)(O)C#CCCCCOC1OCCCC1)(C)C1=CC=C(C=C1)OC | C30H38O5
